US07183276B2
A mixture of 4-(4-chlorophenyl)-2-phenyloxazole (14.43 g), phosphorus oxychloride (12.97 g), N,N-dimethylformamide (100 mL) was stirred at 90° C. for 1.5 hrs. The reaction mixture was poured into iced water, and the precipitated solid was collected by filtration, washed successively with aqueous sodium hydrogen carbonate solution and water and dried. The obtained crystals were recrystallized from acetone-hexane to give 4-(4-chlorophenyl)-2-phenyl-5-oxazolecarbaldehyde (7.90 g, 49%) as yellow prism crystals.

reactant | 4-(4-chlorophenyl)-2-phenyloxazole | 14.43 g | ClC1=CC=C(C=C1)C=1N=C(OC1)C1=CC=CC=C1 | C15H10ClNO
reactant | phosphorus oxychloride | 12.97 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(4-chlorophenyl)-2-phenyl-5-oxazolecarbaldehyde | 7.90 g, 49% | ClC1=CC=C(C=C1)C=1N=C(OC1C=O)C1=CC=CC=C1 | C16H10ClNO2
